US07019179B2
In a flask, 3 mmol of furan, 1.5 mmol of ethyl acrylate, 0.1 mmol of palladium(II) acetate, 0.02 mmol of H7PMo8V4O40, 0.08 mmol of sodium acetate, 0.1 mmol of acetylacetone, and 5 ml of propionic acid were placed and were stirred at a constant temperature of 50° C. in an atmosphere of oxygen gas at 1 atm (0.1 MPa) for 3 hours. The resulting reaction mixture was analyzed by gas chromatography to find that ethyl 3-(2-furyl)acrylate and 2,5-bis(2-ethoxycarbonylethenyl)furan were produced in yields of 51%0 and 18%, respectively.

reactant | furan | 3 mmol | O1C=CC=C1 | C4H4O
reactant | ethyl acrylate | 1.5 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | sodium acetate | 0.08 mmol | C(C)(=O)[O-].[Na+]
reactant | acetylacetone | 0.1 mmol | C(C)(=O)CC(C)=O | C5H8O2
reactant | propionic acid | 5 ml | C(CC)(=O)O | C3H6O2
reactant | oxygen | O=O | O2
reactant | ethyl 3-(2-furyl)acrylate | O1C(=CC=C1)C=CC(=O)OCC | C9H10O3
catalyst | palladium(II) acetate | 0.1 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,5-bis(2-ethoxycarbonylethenyl)furan | C(C)OC(=O)C=CC=1OC(=CC1)C=CC(=O)OCC | C14H16O5
